US07592345B2
c) step 3: 2-(3,4-Dichloro-phenyl)-4-(4-methanesulfonyl-piperazin-1-yl)-butyric acid
A mixture of 1.42 g (3.4 mmol) 2-(3,4-dichloro-phenyl)-4-(4-methanesulfonyl-piperazin-1-yl)-butyric acid methyl ester and 0.182 g (4.3 mmol) LiOH.H2O in 30 mL water and 30 mL THF was heated to reflux for 1 h. The mixture was treated with 4N HCl aq. and evaporated to dryness. The residue was used without further purification in the subsequent step. MS(m/e): 395.0 (MH+).

reactant | 2-(3,4-dichloro-phenyl)-4-(4-methanesulfonyl-piperazin-1-yl)-butyric acid methyl ester | 3.4 mmol, 1.42 g | COC(C(CCN1CCN(CC1)S(=O)(=O)C)C1=CC(=C(C=C1)Cl)Cl)=O | C16H22Cl2N2O4S
reactant | LiOH.H2O | 4.3 mmol, 0.182 g | O[Li].O
reactant | HCl | 4N | Cl | ClH
solvent | water | 30 mL | O | H2O
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | 2-(3,4-Dichloro-phenyl)-4-(4-methanesulfonyl-piperazin-1-yl)-butyric acid | ClC=1C=C(C=CC1Cl)C(C(=O)O)CCN1CCN(CC1)S(=O)(=O)C | C15H20Cl2N2O4S
